US07790770B2
To a solution of 1-bromo-3,5-difluorobenzene (30.6 mL, 0.266 mole) and 2-(methylsulfonyl)ethanol (66 g, 0.531 mole) in DMSO (240 mL) was added potassium tert-butoxide (76.6 g, 0.682 mole) at 0° C. The resulting mixture was stirred at room temperature for 3 h and quench with 4N HCl slowly to pH≦1. The desired product was extracted with Et2O (12 L) until no product was detected in the aqueous layer. The Et2O was evaporated under reduced pressure to one third the amount of the solvent and washed with 1N NaOH (12 L). Then, the NaOH solution was adjusted to pH=3 and extracted with Et2O until no desired product was detected in the aqueous layer. The Et2O was evaporated under reduced pressure and passed through an Al2O3 column eluted with Et2O to afford 3-bromo-5-fluorophenol as a colorless oil (48 g, 94% yield). LC-MS 190.33 (M+H); Analytical HPLC=2.26 minutes (0-100% CH3CN in H2O with 0.1% TFA in a 4-min run); 1H NMR (400 MHz, CD3OD) δ ppm 6.88-6.64 (m, 2H), 6.58-6.30 (m, 1H), 4.99 (s, 1H).

reactant | 1-bromo-3,5-difluorobenzene | 0.266 mole, 30.6 mL | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | 2-(methylsulfonyl)ethanol | 0.531 mole, 66 g | CS(=O)(=O)CCO | C3H8O3S
reactant | potassium tert-butoxide | 0.682 mole, 76.6 g | CC(C)([O-])C.[K+]
solvent | DMSO | 240 mL | CS(=O)C | C2H6OS
product | 3-bromo-5-fluorophenol | 48 g, 94% yield | BrC=1C=C(C=C(C1)F)O | C6H4BrFO
